US04978753
In the manner given in Example 16, carbonyldiimidazole, 3-pentynoic acid and 2-amino-8-ethylthio-7-ethyl-5-(p-methylphenyl)-3H-1,4-benzodiazepine were stirred in tetrahydrofuran-dimethylformamide to give 10-ethylthio 1,9-diethyl-7-(p-methylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-pentynoic acid | C(CC#CC)(=O)O | C5H6O2
reactant | 2-amino-8-ethylthio-7-ethyl-5-(p-methylphenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=C(C=C1)C)C=C(C(=C2)SCC)CC | C20H23N3S
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 10-ethylthio 1,9-diethyl-7-(p-methylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(C)SC1=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CC)C3=CC=C(C=C3)C)C=C1CC | C25H27N3OS
